Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Chest pain 
 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
=============================================  
 MEDICINE ADMISSION NOTE  
 DATE OF ADMISSION: ___  
 =============================================  
 PCP: ___ on file  
 CC: ___ pain  
 HISTORY OF PRESENT ILLNESS:  
 ===========================  
 Ms. ___ is a ___ with history of CAD, thoracic aortic
aneurysm, depression with prior suicide attempts, and alcohol 
use
disorder who presents as a transfer from ___ for chest 
pain.

 She initially awoke with left-sided chest pain the night of
___. The pain radiated down her left arm and around to her 
back,
and was constant in nature. She had associated nausea,
lightheadedness, and dyspnea. She denies trauma to her chest
wall, fevers, or chills.  
 Regarding her cardiac history, her last cardiac catheterization
was reportedly in ___ at ___. She had a stress
test several years ago but cannot recall the results.  
 On arrival to ___, patient was noted to be hypertensive.
Her ECG showed sinus tachycardia and ST depressions in V4-6 that
were stable from prior. Labs were notable for WBC 12.8, Hgb 
14.3,
trop < 0.02. Serum and urine tox were negative except for
+salicylates. She had a CXR that showed hyperinflation of the
lungs but was otherwise unremarkable. CTA chest/abdomen showed a
stable thoracic aortic aneurysm with no sign of
dissection/leakage and no evidence of PE. She received a full
dose aspirin, IV labetalol 10mg, SL nitro x3, fentanyl, and was
eventually started on a nitro gtt. She had no improvement of her
chest pain despite these interventions and was subsequently
transferred to ___ for further evaluation.  
 Notably, she had an admission to ___ in ___ for abdominal
pain felt secondary to pancreatitis flare, though CT abdomen and
ERCP were ultimately negative. During this admission, her 
primary
team documented concern for malingering due to discrepancies in
her pain with hand vs. stethoscope pressure and persistent
requests for parenteral opioids. Psychiatry was consulted who
recommended Celexa and Ativan as needed.  
 In the ED, initial vitals were: T 96.7 BP 137/83 HR 87 RR 18 O2
97% 2L NC  
 Exam was notable for:  
 - Gen: Appears uncomfortable, tearful  
 - Lungs: +Wheezes. No rales or rhonchi.  
 Labs were notable for:  
 - WBC 13, Hgb 12  
 - Chem 7 and LFTs unremarkable  
 - Trop < 0.01  
 - UA 23 RBC, sm bld, 30 prot  
 The patient was given:  
 - Pantoprazole 40mg PO, Aluminum-magnesium-simethicone 30mL,
Ondansetron 4mg IV, Viscous lidocaine 10mL, IV ketorolac,
Lidocaine patch, Oxycodone 5mg PO  
 On arrival to the floor, she confirms the history above.
Currently still in pain and worse when she breathes in.

 REVIEW OF SYSTEMS:  
 ==================  
 Per HPI, otherwise, 10-point review of systems was within 
normal
limits.  
 PAST MEDICAL/SURGICAL HISTORY:  
 ==============================  
 ?Chronic pancreatitis  
 HCV  
 Alcohol use disorder  
 ?CAD  
 Thoracic aortic aneurysm  
 Hypertension  
 Appendectomy  
 Cholecystectomy  
 Hysterectomy  
 HOME MEDICATIONS:  
 =================  
 Aspirin 81mg daily  
 Tiotropium bromide 18mcg inhaled  
 Atorvastatin 40mg qpm  
 Diltiazem ER 240mg daily vs. 30mg TID  
 ALLERGIES:  
 ==========  
 Penicillin (rash)  
 SOCIAL HISTORY: ___
 FAMILY HISTORY:  
 ===============  
 ADMISSION PHYSICAL EXAM:  
 ========================  
 VITALS:  98.0 PO ___ 17 97 
 GENERAL: Alert and interactive. In no acute distress.  
 HEENT: EOMI, Sclera anicteric and without injection. MMM.  
 NECK: No cervical lymphadenopathy. No JVD.  
 CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops. Significant pain with palpation of focal
areas along chest wall. reproducible  
 LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi 
or
rales. No increased work of breathing.  
 BACK: No CVA tenderness.  
 ABDOMEN: Normal bowels sounds, non distended, non-tender to 
deep
palpation in all four quadrants. No organomegaly.  
 EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial
2+ bilaterally.  
 SKIN: Warm. Cap refill <2s. No rashes.  
 NEUROLOGIC: Moving all extremities with purpose, alert.

 
 LABS/MICRO/STUDIES: Reviewed in OMR.  
 ===================  
 ASSESSMENT AND PLAN:  
 ====================  
 Ms. ___ is a ___ with history of CAD, thoracic aortic
aneurysm, depression with prior suicide attempts, and alcohol 
use
disorder who presents as a transfer from ___ for constant
chest pain of unclear etiology, admitted for pain control.  
 ACUTE/ACTIVE ISSUES:  
 ====================  
 # Chest pain  
  Imaging without evidence of thoracic aortic aneurysm
dissection, ECG and troponins unremarkable and no improvement
with nitro to suggest ACS, no evidence of PE or pneumonia to
suggest pleurisy, no history of trauma. Physical exam notable 
for
significant and reproducible pain when palpated chest wall at
different points, concerning for costochondritis/MSK. 
- Per ___, has filled three Rxs for ___ days of opioids
between ___, all written by different providers. Will
make efforts to avoid opioids and parenteral narcotics given no
clear etiology for pain until this can be clarified further.  
 - Pain control with lidocaine patch, Tylenol 1g TID, Ibuprofen
400mg Q8HR  
 CHRONIC/STABLE ISSUES:  
 ======================  
 # Depression  
 # Alcohol use disorder  
 Reportedly quit many years ago.  
 - Social work consult  
 # HCV  
 - transitional issue  
 # CAD  
 - Continue home aspirin 81mg daily and atorvastatin 40mg daily  

 
CORE MEASURES:  
 ==============  
 # FEN: IVF PRN, replete electrolytes PRN, regular diet  
 # PPX: SQH  
 # ACCESS: PIVs  
 # CODE: Full, presumed  
 # CONTACT: ___  
Relationship: BROTHER  
Phone: ___  
 # DISPO: discharge today with NSAIDs and PCP follow up  

 
___ Medical History:
?Chronic pancreatitis  
 HCV  
 Alcohol use disorder  
 ?CAD  
 Thoracic aortic aneurysm  
 Hypertension  
 Appendectomy  
 Cholecystectomy  
 Hysterectomy  

 
Social History:
___
Family History:
Noncontributory 
 
Physical Exam:
========================  
 VITALS:  98.0 PO ___ 17 97 
 GENERAL: Alert and interactive. In no acute distress.  
 HEENT: EOMI, Sclera anicteric and without injection. MMM.  
 NECK: No cervical lymphadenopathy. No JVD.  
 CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No 
murmurs/rubs/gallops. Significant pain with palpation of focal 
areas along chest wall. reproducible  
 LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi 
or rales. No increased work of breathing.  
 BACK: No CVA tenderness.  
 ABDOMEN: Normal bowels sounds, non distended, non-tender to 
deep palpation in all four quadrants. No organomegaly.  
 EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+ bilaterally.  
 SKIN: Warm. Cap refill <2s. No rashes.  
 NEUROLOGIC: Moving all extremities with purpose, alert.

 
Pertinent Results:
___ 12:00AM BLOOD WBC-13.0* RBC-3.86* Hgb-12.0 Hct-36.8 
MCV-95 MCH-31.1 MCHC-32.6 RDW-14.6 RDWSD-50.4* Plt ___
___ 08:50AM BLOOD WBC-7.8 RBC-4.06 Hgb-12.5 Hct-38.6 MCV-95 
MCH-30.8 MCHC-32.4 RDW-13.9 RDWSD-49.2* Plt ___
___ 12:00AM BLOOD Plt ___
___ 08:50AM BLOOD Plt ___
___ 09:46PM BLOOD Glucose-96 UreaN-10 Creat-0.9 Na-137 
K-4.9 Cl-106 HCO3-17* AnGap-14
___ 08:50AM BLOOD Glucose-88 UreaN-13 Creat-1.0 Na-141 
K-4.3 Cl-106 HCO3-25 AnGap-10
___ 09:46PM BLOOD ALT-32 AST-29 AlkPhos-105 TotBili-0.2
___ 08:50AM BLOOD ALT-34 AST-26 LD(LDH)-176 AlkPhos-116* 
TotBili-0.4
___ 09:46PM BLOOD Lipase-39
___ 09:46PM BLOOD cTropnT-<0.01
___ 08:50AM BLOOD Albumin-4.1 Calcium-9.0 Phos-3.7 Mg-2.2
___ 11:47PM BLOOD Lactate-0.9
 
Brief Hospital Course:
Ms. ___ is a ___ with history of CAD, thoracic aortic 
aneurysm, depression with prior suicide attempts, and alcohol 
use disorder who presents as a transfer from ___ for 
constant chest pain of unclear etiology, admitted for pain 
control.

# Chest pain 
Imaging without evidence of thoracic aortic aneurysm dissection, 
ECG and troponins unremarkable and no improvement with nitro to 
suggest ACS, no evidence of PE or pneumonia to suggest pleurisy, 
no history of trauma. Physical exam notable for significant and 
reproducible pain when palpated chest wall at different points, 
concerning for costochondritis/MSK. Per ___, has filled 
three Rxs for ___ days of opioids between ___, all 
written by different providers. Per patient, she doesn't have a 
PCP but is working on getting one. Pt was counseled on her 
condition of MSK/ costochrondritis and prescribed lidocaine 
patch, Tylenol 1g TID, Ibuprofen 400mg Q8HR. No opioids were 
given once admitted and pt was counseled that opioids is not the 
appropriate treatment for her condition. She felt comfortable 
returning home and following up with a PCP within ___ few hours of 
being admitted. 

 # Depression 
 # Alcohol use disorder 
 Reportedly quit many years ago. 
 # HCV 
 - Transitional issue: Consider getting HCV VL, ultrasound, 
LFTs. 
 # CAD 
 - Continue home aspirin 81mg daily and atorvastatin 40mg daily 

Transitional issues:
[] Continue NSAIDs, standing Tylenol and lidocaine patch for 10 
days and then reassess symptoms before continuing medications
[] Pt need a PCP, she has several issues that need to be 
addressed including a thoracic aortic aneurysm that needs yearly 
monitoring, depression, alcohol use disorder, hepatitis C

# CONTACT: ___ 
Relationship: BROTHER 
Phone: ___ 
# DISPO: discharge today with NSAIDs and PCP follow up 

>30 min spent on d/c planning including face to face time.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Atorvastatin 40 mg PO QPM 
3. Methocarbamol 750 mg PO TID 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H 
RX *acetaminophen 500 mg 2 tablet(s) by mouth three times a day 
Disp #*60 Tablet Refills:*0 
2.  Ibuprofen 400 mg PO Q8H Duration: 10 Days 
RX *ibuprofen 400 mg 1 tablet(s) by mouth three times a day Disp 
#*60 Tablet Refills:*0 
3.  Lidocaine 5% Patch 1 PTCH TD QAM 
RX *lidocaine 5 % 1 patch over chest wall every day Disp #*10 
Patch Refills:*0 
4.  Methocarbamol 750 mg PO TID  
5.  Aspirin 81 mg PO DAILY  
6.  Atorvastatin 40 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Costochrondritis 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure caring for you here at ___. 

You presented to an outside hospital with significant chest 
pain. At the outside hospital, they ran several tests to ensure 
you did not have something very serious such as a heart attack 
or an expanding or rupture of your existing aneurysm. The EKG, 
lab work, CT of your chest all came back reassuring which is 
great news. Given your ongoing pain you were sent here for pain 
control.

Upon arrival to the medicine floor, you were evaluated and on 
physical exam, it was shown that you have significant 
reproducible pain when your chest wall was pressed. This is 
concerning for inflammation of your chest wall which is common. 
Treatment for this is anti-inflammatory medications. You were 
prescribed Tylenol, ibuprofen and a lidocaine patch. Prior to 
discharge, although you are still in pain, you feel very 
comfortable returning home and following up with a new PCP.

It is very important you follow up with a PCP given your 
aneurysm. There is a high risk for rupture for dilation > 4.5cm 
and echos need to be done very year. 

We are glad you are feeling better.

Sincerely,
Your ___ team  
 
Followup Instructions:
___